US08895733B2
Intermediate 210: Methyl 6-[(2,2,2-trifluoroethyl)sulfanyl]pyridine-3-carboxylate
To a solution of sodium hydride (60% dispersion in mineral oil, 90 mg, 2.25 mmol) in anhydrous THF (40 mL) at 0 C was added 2,2,2-trifluoro-ethanethiol (200 μL, 2.25 mmol) drop-wise under nitrogen. The resulting solution was stirred for 15 min and added to a solution of 6-chloro-nicotinic acid methyl ester (257 mg, 1.5 mmol) in anhydrous THF (40 mL) at 0 C drop-wise. The reaction mixture was allowed to warm to room temperature and stirring was continued for a further 3 h. The solution was quenched with water at 0 C and extracted into EtOAc (3×50 mL). Combined organics were washed with brine (20 mL), dried over magnesium sulfate, evaporated to dryness and purified by silica chromatography (25% EtOAc in heptane) to afford the title compound as a colourless oil (370 mg, 98%). Method C HPLC-MS: MH+ requires m/z=252. Found: m/z=252, Rt=1.41 min (94%).

reactant | sodium hydride | 2.25 mmol, 90 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-ethanethiol | 2.25 mmol, 200 μL | FC(CS)(F)F | C2H3F3S
reactant | 6-chloro-nicotinic acid methyl ester | 1.5 mmol, 257 mg | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl 6-[(2,2,2-trifluoroethyl)sulfanyl]pyridine-3-carboxylate | 370 mg, 98% | FC(CSC1=CC=C(C=N1)C(=O)OC)(F)F | C9H8F3NO2S
